US04629737
Phenoxyacetaldehyde dimethyl acetal
A mixture of 31.3 g of phenol, 60.0 g of bromoacetaldehyde dimethyl acetal and 80 g of potassium carbonate was heated at 150° C. in 300 ml of dimethylformamide. After 4.5 hours the reaction mixture was cooled, added to water, and extracted with diethyl ether. Separation, drying and evaporation of the organic phase gave the crude product. Vacuum distillation, bp 88°-98° C./1 mm yielded the title compound as a colourless oil.

reactant | phenol | 31.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | bromoacetaldehyde dimethyl acetal | 60.0 g | COC(CBr)OC | C4H9BrO2
reactant | potassium carbonate | 80 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Phenoxyacetaldehyde dimethyl acetal | COC(COC1=CC=CC=C1)OC | C10H14O3
